US09403798B2
A toluene solution (25 mL) of 1-(4-chlorobenzyl)-4-hydroxy-1,3,5-triazin-2(1H)-one (600 mg, 2.52 mmol) synthesized in Reference Synthesis Example 10, N,N-diisopropylethylamine (0.52 mL, 4.63 mmol), and phosphorus oxychloride (0.94 mL) was stirred at 70° C. for 30 minutes. After completion of the reaction, the reaction solution was concentrated under reduced pressure and toluene was added, followed by concentrating the resultant mixture under reduced pressure again. To the obtained crude product of 4-chloro-1-(4-chlorobenzyl)-1,3,5-triazin-2(1H)-one, chloroform was added and the resultant solution was used in the next reaction as the chloroform solution.

reactant | 1-(4-chlorobenzyl)-4-hydroxy-1,3,5-triazin-2(1H)-one | 2.52 mmol, 600 mg | ClC1=CC=C(CN2C(N=C(N=C2)O)=O)C=C1 | C10H8ClN3O2
reactant | N,N-diisopropylethylamine | 4.63 mmol, 0.52 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | phosphorus oxychloride | 0.94 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-1-(4-chlorobenzyl)-1,3,5-triazin-2(1H)-one | ClC1=NC(N(C=N1)CC1=CC=C(C=C1)Cl)=O | C10H7Cl2N3O
